US08465674B2
Toluene (200 ml) and pyrrolidine (90 ml) were added to 4-(1,4-dioxaspiro[4.5]decan-8-yl)cyclohexanone (100 g) in a reaction vessel equipped with a Dean-Stark apparatus under an atmosphere of nitrogen. The mixture was refluxed for 3 hours while the water formed was removed by a Dean-Stark apparatus. After the reaction mixture had been cooled to a room temperature, it was washed with brine, and dried over anhydrous magnesium sulfate. The toluene was distilled off to give 1-(4-(1,4-dioxaspiro[4.5]decan-8-yl)cyclohex-1-enyl)pyrrolidine (105.8 g).

reactant | Toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | pyrrolidine | 90 ml | N1CCCC1 | C4H9N
reactant | 4-(1,4-dioxaspiro[4.5]decan-8-yl)cyclohexanone | 100 g | O1CCOC12CCC(CC2)C2CCC(CC2)=O | C14H22O3
solvent | water | O | H2O
product | 1-(4-(1,4-dioxaspiro[4.5]decan-8-yl)cyclohex-1-enyl)pyrrolidine | 105.8 g | O1CCOC12CCC(CC2)C2CC=C(CC2)N2CCCC2 | C18H29NO2
